US04906628
5-Methyl-6-[4-(4-oxo-1,4-dihydropyridin-1-yl)phenyl]-4,5-dihydro-3(2H)-pyridazinone
Hydrazine hydrate (1.8 g) was added to a suspension of 3-[4-(4-oxo-1,4-dihydropyridin-1-yl)benzoyl]butanoic acid (5 g) in water (60 ml). The resulting solution was stirred under reflux for 2 hours and cooled to afford the title compound as a pale yellow solid, 4.45 g, m.p. 255°-258° C.

reactant | Hydrazine hydrate | 1.8 g | O.NN
reactant | 3-[4-(4-oxo-1,4-dihydropyridin-1-yl)benzoyl]butanoic acid | 5 g | O=C1C=CN(C=C1)C1=CC=C(C(=O)C(CC(=O)O)C)C=C1 | C16H15NO4
solvent | water | 60 ml | O | H2O
product | 5-Methyl-6-[4-(4-oxo-1,4-dihydropyridin-1-yl)phenyl]-4,5-dihydro-3(2H)-pyridazinone | CC1CC(NN=C1C1=CC=C(C=C1)N1C=CC(C=C1)=O)=O | C16H15N3O2
